US06465501B2
5-{4-[2-({(2 S)-3-[4-(Benzyloxy)phenoxy]-2-hydroxypropyl}amino)ethyl]anilino}-1,3-thiazolidine-2,4-dione
This compound was prepared from tert-butyl (2 S)-3-[4-(benzyloxy)phenoxy]-2-hydroxypropyl{4-[(2,4-dioxo-1,3-thiazolidin-5-yl)amino]phenethyl}carbamate and trifluoroacetic acid in substantially the same manner as described in example 1, step e, with one modification, the product was isolated as the free base and recrystallized from methanol, tetrahydrofuran, hexanes to give a yellow foam solid (58% yield): mp 152° C.; MS m/e 508 (M+H)+; 1H NMR (DMSO-d6 300 MHz) δ2.68 (m, 2 H), 2.81 (m, 1 H), 2.88 (m, 4 H), 3.85 (m, 2 H), 4.00 (m, 1 H), 5.02 (s, 2 H), 5.45 (br, 1 H), 5.99 (d, 1 H), 6.59 (d, 2 H), 6.66 (d, 1 H), 6.84 (d, 2 H), 6.86 ( m, 2 H) 6.92 (m, 2 H), 7.28 (m, 5 H), 8.80 (br, 1 H);

reactant | tert-butyl (2 S)-3-[4-(benzyloxy)phenoxy]-2-hydroxypropyl{4-[(2,4-dioxo-1,3-thiazolidin-5-yl)amino]phenethyl}carbamate | C(C1=CC=CC=C1)OC1=CC=C(OC[C@H](CN(C(OC(C)(C)C)=O)CCC2=CC=C(C=C2)NC2C(NC(S2)=O)=O)O)C=C1 | C32H37N3O7S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 5-{4-[2-({(2 S)-3-[4-(Benzyloxy)phenoxy]-2-hydroxypropyl}amino)ethyl]anilino}-1,3-thiazolidine-2,4-dione | 58% yield | C(C1=CC=CC=C1)OC1=CC=C(OC[C@H](CNCCC2=CC=C(NC3C(NC(S3)=O)=O)C=C2)O)C=C1 | C27H29N3O5S
